US05616596
To a solution in DMSO (30 mL) of 4-fluorobenzyl bromide (3.27 mL, 26.3 mmol), 2-thiophenemethanol (3.00 mL, 31.7 mmol), and benzyltrimethylammonium chloride (244 mg, 1.31 mmol) was added NaOH (6.31 g, 159 mmol) and the reaction mixture was stirred for 17 hours at ambient temperature. The reaction mixture was poured into brine and extracted with ether. The organic phase was washed with 1N aqueous H3PO4 (3×), H2O (3×), saturated aqueous NaHCO3 (2×), and brine, dried over MgSO4, filtered, and concentrated in vacuo. Chromatography on silica gel (20% ethyl acetate/hexane) gave 2-(4-fluorophenylmethoxymethyl)thiophene (5.03 g, 86% ).

reactant | 4-fluorobenzyl bromide | 26.3 mmol, 3.27 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 2-thiophenemethanol | 31.7 mmol, 3.00 mL | S1C(=CC=C1)CO | C5H6OS
reactant | NaOH | 159 mmol, 6.31 g | [OH-].[Na+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
catalyst | benzyltrimethylammonium chloride | 1.31 mmol, 244 mg | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | brine | [Cl-].[Na+].O
product | 2-(4-fluorophenylmethoxymethyl)thiophene | 5.03 g, 86% | FC1=CC=C(C=C1)COCC=1SC=CC1 | C12H11FOS
